US04673746
A mixture of 60 g of pyridine hydrochloride and 12.0 g 3-(4-chlorophenyl)-6-methoxy-1,2-benzisoxazole is heated with stirring at 210° C. for 75 min. The hot reaction mixture is poured with vigorous stirring onto ice and the solid is filtered, dried, and recrystallized from toluene to afford 3-(4-chlorophenyl)-6-hydroxy-1,2-benzisoxazole, mp 203° C.

reactant | pyridine hydrochloride | 60 g | Cl.N1=CC=CC=C1
reactant | 3-(4-chlorophenyl)-6-methoxy-1,2-benzisoxazole | 12.0 g | ClC1=CC=C(C=C1)C1=NOC2=C1C=CC(=C2)OC | C14H10ClNO2
product | 3-(4-chlorophenyl)-6-hydroxy-1,2-benzisoxazole | ClC1=CC=C(C=C1)C1=NOC2=C1C=CC(=C2)O | C13H8ClNO2
